US07012075B2
N2-{4-[4-(bromoacetyl)phenyl]isothiazol-3-yl}-N1-(cyanomethyl)leucinamide (29 mg, 0.064 mmol) was dissolved in DMF (0.6 mL) and dimethylamine (0.13 mL of a 2 M solution in THF, 0.26 mmol) was added. The reaction mixture was stirred until disappearance of the starting material was observed by TLC (˜1 h). Aqueous sat. NaHCO3 was added, the product was extracted with EtOAc (3×), dried over MgSO4, concentrated in vacuo and purified by flash chromatography with dichloromethane, methanol and ammonium hydroxide to yield N1-(cyanomethyl)-N2-{4-[4-(N,N-dimethylglycyl)phenyl]isothiazol-3-yl} leucinamide.

reactant | N2-{4-[4-(bromoacetyl)phenyl]isothiazol-3-yl}-N1-(cyanomethyl)leucinamide | 0.064 mmol, 29 mg | BrCC(=O)C1=CC=C(C=C1)C=1C(=NSC1)N[C@@H](CC(C)C)C(=O)NCC#N | C19H21BrN4O2S
reactant | dimethylamine | CNC | C2H7N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N1-(cyanomethyl)-N2-{4-[4-(N,N-dimethylglycyl)phenyl]isothiazol-3-yl} leucinamide | C(#N)CNC([C@@H](NC1=NSC=C1C1=CC=C(C=C1)C(CN(C)C)=O)CC(C)C)=O | C21H27N5O2S
